US09388189B2
a) N-(5-Bromopyridin-3-yl)-2-fluoro-4-methoxybenzenesulfonamide
5-Bromopyridin-3-amine (500 mg, 2.89 mmol) was dissolved in dichloromethane (14 ml) and pyridine (4 ml) was added. To this mixture 2-fluoro-4-methoxybenzene-1-sulfonyl chloride (1 g, 4.45 mmol) was added dropwise and the mixture stirred at reflux for 5 h. Once at room temperature, the reaction mixture was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography (0% to 50% DCM/AcOEt) to give 792 mg (76% yield) of the title compound as a white solid.

reactant | 5-Bromopyridin-3-amine | 2.89 mmol, 500 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-fluoro-4-methoxybenzene-1-sulfonyl chloride | 4.45 mmol, 1 g | FC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C7H6ClFO3S
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | N-(5-Bromopyridin-3-yl)-2-fluoro-4-methoxybenzenesulfonamide | 792 mg, 76% yield | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)OC)F | C12H10BrFN2O3S
